US04598079
3-(2-thienyl)-4-(4'-chlorophenoxymethylcarbonyloxyethyl)-piperazin-2-one hydrochloride
18.1 g (0.08 mol) of 3-(2-thienyl)-4-hydroxyethylpiperazin-2-one, prepared in accordance with Example 27, are dissolved in 160 ml of chloroform and acylated with 10.1 g (0.1 mol) of triethylamine and 20.5 g (0.1 mol) of 4-chlorophenoxyacetyl chloride. The mixture is stirred for a further 4 hours at room temperature and evaporated, and the residue is extracted by shaking with ethyl acetate. The ethyl acetate extract is dried with sodium sulphate, and the compound is precipitated as the hydrochloride by adding hydrochloric acid in ether.

reactant | 3-(2-thienyl)-4-hydroxyethylpiperazin-2-one | 0.08 mol, 18.1 g | S1C(=CC=C1)C1C(NCCN1CCO)=O | C10H14N2O2S
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenoxyacetyl chloride | 0.1 mol, 20.5 g | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | chloroform | 160 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-thienyl)-4-(4'-chlorophenoxymethylcarbonyloxyethyl)-piperazin-2-one hydrochloride | Cl.S1C(=CC=C1)C1C(NCCN1CCOC(=O)COC1=CC=C(C=C1)Cl)=O | InChI=1S/C18H19ClN2O4S.ClH/c19-13-3-5-14(6-4-13)25-12-16(22)24-10-9-21-8-7-20-18(23)17(21)15-2-1-11-26-15;/h1-6,11,17H,7-10,12H2,(H,20,23);1H
